US07713979B2
N-(3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl)benzenesulfonamide
Using the procedure to synthesize Example 250 and using reagents 3-(4-amino-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one (250 mg, 0.73 mmol) and benzene sulfonyl chloride (0.19 mL, 1.5 mmol) affords 229 mg (65%) of the title compound. Mass spectrum (apci) m/z=481.1 (M+H).

reactant | 3-(4-amino-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one | 0.73 mmol, 250 mg | NC1=CC(=C(CC2C(N(CC2)C2CCCCC2)=O)C(=C1)Cl)Cl | C17H22Cl2N2O
reactant | benzene sulfonyl chloride | 1.5 mmol, 0.19 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(3,5-dichloro-4-((1-cyclohexyl-2-oxopyrrolidin-3-yl)methyl)phenyl)benzenesulfonamide | 229 mg, 65% | ClC=1C=C(C=C(C1CC1C(N(CC1)C1CCCCC1)=O)Cl)NS(=O)(=O)C1=CC=CC=C1 | C23H26Cl2N2O3S
